US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (105.5 mg, 0.282 mmol) and L-alanine tert-butyl ester hydrochloride (51.2 mg, 0.282 mmol) according to Reference R and the general procedure for reductive amination to give (S)-tert-butyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzylamino)propanoate as a yellow-orange solid. MS (ESI) m/z: Calculated: 503.2; Observed: 503.8 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.282 mmol, 105.5 mg | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | L-alanine tert-butyl ester hydrochloride | 0.282 mmol, 51.2 mg | Cl.C(C)(C)(C)OC([C@@H](N)C)=O
product | (S)-tert-butyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzylamino)propanoate | FC=1C=C(CN[C@H](C(=O)OC(C)(C)C)C)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C29H30FN3O2S
